US05164388
δ-Valerolactone (7.14 g, 71.35 mmol) was slowly added to a flask containing freshly made LDA (80 mmol) in 200 ml of dry THF at -78° C. under N2. After stirring the solution for 40 min at -78° C., benzyl bromide (12.20 g, 71 mmol) was added. The bath was removed and the reaction was stirred at room temperature for 40 min. At the end, the crude mixture was poured to a slurry of AcOEt-Hexane and 0.5 N H2SO4. The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was then dissolved in 60 ml of MeOH and 10 ml of concentrated H2SO4. After stirring the solution at room temperature overnight, the acid was neutralized with aqueous NaHCO3. The crude product was extracted with AcOEt-Hexane and purified by column chromatography (silica gel, AcOEt-Hexane, 1:3) which gave 6.2 g (40% yield) of methyl 2-benzyl-5-hydroxy-pentanoate; 1H NMR (CDCl3, 300 MHz) δ: 7.30-7.10 (m,5H), 3.58 (s,3H,OCH3, 3.56 (t,J=6Hz,2H), 2.95 (dd,J=7,12Hz,1H), 2.75 (dd,J=6,12Hz,1H), 2.69 (m,1H), 2.15 (s,1H,-OH), and 1.70-1.50 (m,4H).

reactant | δ-Valerolactone | 71.35 mmol, 7.14 g | C1(CCCCO1)=O | C5H8O2
reactant | LDA | 80 mmol | [Li+].CC(C)[N-]C(C)C
reactant | benzyl bromide | 71 mmol, 12.20 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | methyl 2-benzyl-5-hydroxy-pentanoate | 6.2 g, 40% yield | C(C1=CC=CC=C1)C(C(=O)OC)CCCO | C13H18O3
